US04450157
6.0 g (0.041 mol) of 2,2-dimethyl-thiazolidine-4-thione are added cautiously to a suspension of 1.0 g (0.041 mol) of oil-free sodium hydridein 20 ml of absolute dimethylformamide. After completion of the evolution of hydrogen, the mixture is heated briefly to 50° C., then cooled to 0° C. and 2.6 ml (0.042 mol) of methyl iodide are added dropwisethereto. After removing the ice-bath the mixture is stirred for an additional 3 hours, treated with water and extracted twice with methylene chloride. The organic extracts are subsequently combined, washed three times with 100 ml of water each time, dried over anhydrous sodium sulfate and evaporated at 40° C. under reduced pressure to yield crude 2,2-dimethyl-4-methylthio-3-thiazoline.

reactant | 2,2-dimethyl-thiazolidine-4-thione | 0.041 mol, 6.0 g | CC1(SCC(N1)=S)C | C5H9NS2
reactant | sodium | 0.041 mol, 20 ml, 1.0 g | [Na] | Na
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | 0.042 mol, 2.6 ml | CI | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2,2-dimethyl-4-methylthio-3-thiazoline | CC1(SCC(=N1)SC)C | C6H11NS2
